US08648066B2
5-bromo-N-(2-hydroxyethyl)-2-(methylamino)pyridine-3-sulfonamide.
Prepared according to the methods described in reagent preparation 25 using 5-bromo-2-(methylamino)pyridine-3-sulfonyl chloride (prepared from 5-bromo-N-methylpyridin-2-amine using analogous conditions to those described in WO2008144463) and 2-aminoethanol in step 1.

reactant | 5-bromo-2-(methylamino)pyridine-3-sulfonyl chloride | BrC=1C=C(C(=NC1)NC)S(=O)(=O)Cl | C6H6BrClN2O2S
reactant | 5-bromo-N-methylpyridin-2-amine | BrC=1C=CC(=NC1)NC | C6H7BrN2
reactant | 2-aminoethanol | NCCO | C2H7NO
product | 5-bromo-N-(2-hydroxyethyl)-2-(methylamino)pyridine-3-sulfonamide | BrC=1C=C(C(=NC1)NC)S(=O)(=O)NCCO | C8H12BrN3O3S
